US08136974B2
In a round-bottomed flask, 9.0 mmol of acetophenone, 3.0 mmol of 1-amino-9-fluorenone (manufactured by Aldrich), and 1.5 mmol of diphenyl phosphate were placed, and the resultant mixture was irradiated with microwave (2,450 MHz) for 10 minutes under argon atmosphere. The reaction solution was cooled to room temperature, concentrated, and then separated and purified by silica gel column chromatography (eluant: dichloromethane and methanol), to give 2-phenylindeno[1,2,3-de]quinoline. The isolation yield was 45%.

reactant | acetophenone | 9.0 mmol | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 1-amino-9-fluorenone | 3.0 mmol | NC1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H9NO
reactant | diphenyl phosphate | 1.5 mmol | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
product | 2-phenylindeno[1,2,3-de]quinoline | yield was 45% | C1(=CC=CC=C1)C=1N=C2C=CC=C3C2=C(C1)C1=CC=CC=C13 | C21H13N
